US06451734B1
Intermediate 8.4: 2,3-Dichloro-4-methoxyphenylacetyl chloride
0.5 ml of dimethylformamide and 60.9 g (0.48 mol) of oxalyl chloride were added to a solution of 37.3 g (0.16 mol) of 2,3-dichloro-4-methoxyphenylacetic acid in 0.5 l of dichloromethane. After evolution of gas had ceased (about 2 hours), the mixture was concentrated. The crude product was reacted further in the next step without any purification. Yield: quantitative.

reactant | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.48 mol, 60.9 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,3-dichloro-4-methoxyphenylacetic acid | 0.16 mol, 37.3 g | ClC1=C(C=CC(=C1Cl)OC)CC(=O)O | C9H8Cl2O3
solvent | dichloromethane | 0.5 l | ClCCl | CH2Cl2
product | 2,3-Dichloro-4-methoxyphenylacetyl chloride | Yield: quantitative | ClC1=C(C=CC(=C1Cl)OC)CC(=O)Cl | C9H7Cl3O2
